US04576734
A mixture of 35.3 g (0.121 mole) of methyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate, 15.3 g (0.0503 mole of 3,9-bis(2-hydroxy-1,1-dimethylethyl)-2,4,8,10-tetraoxaspiro[5.5]undecane and 0.82 g (0.015 mole) of sodium methoxide was reacted, after-treated and purified in the same manner as in Production example 1 to obtain 21 g of a 99%-purity white crystal, 3,9-bis[2-{3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyloxy}-1,1-dimethylethyl]-2,4,8,10-tetraoxaspiro[5.5]undecane (Compound AO-1).

reactant | methyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate | 0.121 mole, 35.3 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
reactant | 3,9-bis(2-hydroxy-1,1-dimethylethyl)-2,4,8,10-tetraoxaspiro[5.5]undecane | 0.0503 mole | OCC(C)(C)C1OCC2(CO1)COC(OC2)C(CO)(C)C | C15H28O6
reactant | sodium methoxide | 0.015 mole, 0.82 g | C[O-].[Na+]
product | 3,9-bis[2-{3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyloxy}-1,1-dimethylethyl]-2,4,8,10-tetraoxaspiro[5.5]undecane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCC(C)(C)C1OCC2(CO1)COC(OC2)C(COC(CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)(C)C | C49H76O10
